US06969712B2
Production of 2-(1-ethylpropoxy)acetic acid
To a solution of 198 mg of 3-pentanol in tetrahydrofuran (4 ml), 180 mg of sodium hydride was added in nitrogen atmosphere at 0° C., and stirred for an hour at room temperature. To the solution 261 mg of sodium chloroacetate was added, followed by 2 hours' stirring at 100° C. The reaction solution was cooled to room temperature, diluted with water, acidified with 1N hydrochloric acid and extracted with chloroform. The chloroform layer was dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to provide 103 mg of the title compound.

reactant | 3-pentanol | 198 mg | CCC(CC)O | C5H12O
reactant | sodium hydride | 180 mg | [H-].[Na+]
reactant | sodium chloroacetate | 261 mg | ClCC(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(1-ethylpropoxy)acetic acid | 103 mg | C(C)C(CC)OCC(=O)O | C7H14O3
